US06599917B1
b) 3-Benzoylthiophene
6.2 g of 1-phenyl-l-(3-thienyl)methanol was dissolved in 50 ml of chloroform. To the mixture was added 30 g of manganese dioxide, followed by stirring overnight. Manganese dioxide was filtered off, and the filtrate was evaporated, to give 6.08 g of the target compound.

reactant | 1-phenyl-l-(3-thienyl)methanol | 6.2 g | C1(=CC=CC=C1)C(O)C1=CSC=C1 | C11H10OS
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 30 g | [O-2].[O-2].[Mn+4]
product | 3-Benzoylthiophene | 6.08 g | C(C1=CC=CC=C1)(=O)C1=CSC=C1 | C11H8OS
